US09212182B2
A RBF was charged with 1-(4-bromo-5-fluoro-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoxaline-6-sulfonyl chloride (527.2 mg, 1.060 mmol), dichloromethane (1767 μl), and pyridazin-3-amine (151 mg, 1.590 mmol) to give a thick suspension. Pyridine (3533 μl) was added relatively quickly, and the mixture was stirred overnight. In the morning, the mixture was concentrated in vacuo, then taken up in 2N aq. HCl and MeOH/EtOAc. A solid formed that was slowly dissolved in the MeOH/EtOAc by repeated exposure. The layers were separated, and the aq. layer was extracted with MeOH/EtOAc (2×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated. The residue was purified by chromatography on silica gel (50-g SNAP Ultra column, 0-50% 3:1 EtOAc/EtOH in heptane with 10% DCM). The main peak was collected with a slightly lower-Rf peak to give 1-(4-bromo-5-fluoro-2-methoxyphenyl)-2-oxo-N-(pyridazin-3-yl)-1,2-dihydroquinoxaline-6-sulfonamide (119 mg, 0.235 mmol, 22.18% yield) as a yellow solid. m/z (ESI) 506.0 (M+H)+.

reactant | 1-(4-bromo-5-fluoro-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoxaline-6-sulfonyl chloride | 1.060 mmol, 527.2 mg | BrC1=CC(=C(C=C1F)N1C(C=NC2=CC(=CC=C12)S(=O)(=O)Cl)=O)OC | C15H9BrClFN2O4S
reactant | dichloromethane | 1767 μl | ClCCl | CH2Cl2
reactant | pyridazin-3-amine | 1.590 mmol, 151 mg | N1=NC(=CC=C1)N | C4H5N3
reactant | Pyridine | 3533 μl | N1=CC=CC=C1 | C5H5N
solvent | MeOH EtOAc | CO.CCOC(=O)C
product | 1-(4-bromo-5-fluoro-2-methoxyphenyl)-2-oxo-N-(pyridazin-3-yl)-1,2-dihydroquinoxaline-6-sulfonamide | 0.235 mmol, 119 mg, 22.18% yield | BrC1=CC(=C(C=C1F)N1C(C=NC2=CC(=CC=C12)S(=O)(=O)NC=1N=NC=CC1)=O)OC | C19H13BrFN5O4S
